*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/3.30e-02[uF]/25[V]
* Murata P/N :GRM155B31E333MA87
* Property : C = 3.30e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31E333MA87 Port1 Port2
C01 Port1 N01 3.21e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.86e-10
R03 N02 N03 2.96e-02
C04 N03 N04 3.05e-06
R04 N03 N04 1.30e+03
C05 N04 N05 5.69e-06
R05 N04 N05 9.45e+01
C06 N05 N06 4.94e-06
R06 N05 N06 1.68e+01
C07 N06 N07 4.04e-06
R07 N06 N07 3.13e+00
C08 N07 N08 3.80e-06
R08 N07 N08 4.11e-01
C09 N08 N09 4.26e-06
R09 N08 N09 9.23e-02
C10 N09 N10 2.06e-06
R10 N09 N10 3.07e-02
L11 N10 N11 6.29e-11
R11 N10 N11 1.48e-01
C12 N11 N12 1.53e-07
L12 N11 N12 1.53e-11
R12 N11 N12 1.51e-02
C13 N12 N13 3.19e-08
L13 N12 N13 2.81e-11
R13 N12 N13 3.91e-02
C14 N13 Port2 3.38e-12
L14 N13 Port2 9.36e-11
R14 N13 Port2 1.39e+01
.ENDS GRM155B31E333MA87
